US09145380B2
a) (E)-2-(2-(3,4-Dichlorophenyl)vinylsulfonamido)-4-methylbenzenesulfonamide
The title compound was synthesized as described for Example 194 a) in 54% yield, starting from 2-amino-4-methylbenzenesulfonamide and (E)-2-(3,4-dichlorophenyl)ethenesulfonyl chloride (1.5 equiv.). Purification by column chromatography, using chloroform/methanol (95:5) as the eluent.

reactant | 2-amino-4-methylbenzenesulfonamide | NC1=C(C=CC(=C1)C)S(=O)(=O)N | C7H10N2O2S
reactant | (E)-2-(3,4-dichlorophenyl)ethenesulfonyl chloride | 1.5 equiv. | ClC=1C=C(C=CC1Cl)/C=C/S(=O)(=O)Cl | C8H5Cl3O2S
product | (E)-2-(2-(3,4-Dichlorophenyl)vinylsulfonamido)-4-methylbenzenesulfonamide | 54% yield | ClC=1C=C(C=CC1Cl)/C=C/S(=O)(=O)NC1=C(C=CC(=C1)C)S(=O)(=O)N | C15H14Cl2N2O4S2
